* Z:\mnt\design.r\spice\examples\3255.asc
XU1 N002 OUT N004 0 N003 IN N005 0 N001 IN LTC3255
V1 IN 0 36
C1 N005 0 .1µ
C2 N002 N001 1µ
R1 OUT N004 383K
R2 N004 0 121K
R3 OUT N003 510K
C3 OUT 0 10µ Rser=5m
Rload OUT 0 1K
.tran 1m startup
.lib LTC3255.sub
.backanno
.end
